US08304438B2
(b) 3-[5-(4-Chloro-phenyl)-thiophen-2-yl]-acrylic Acid
0.250 g (1.1 mmol) of 3-(5-bromo-thiophen-2-yl)-acrylic acid and 61.9 mg (0.1 mmol) of tetrakis(triphenylphosphine)palladium were dissolved in 5 ml of degassed DME and stirred for 10 min at room temperature. 0.251 g (1.6 mmol) of 4-chlorophenylboronic acid and 1 ml of a 2 M aqueous sodium carbonate solution were added together with an additional 5 ml of degassed DME. The reaction mixture was heated to 95° C. for 4 h, and then stirred at room temperature for 16 h. Solids were removed by filtration and the resulting solution was evaporated to dryness. The residue was dissolved in ethyl acetate and washed three times with a saturated aqueous sodium hydrogencarbonate solution, and once with a saturated sodium chloride solution. The organic phase was dried with sodium sulfate, filtered, and the solvent was removed under reduced pressure. The product was purified by silica gel chromatography. Yield: 0.12 g.

reactant | 3-(5-bromo-thiophen-2-yl)-acrylic acid | 1.1 mmol, 0.250 g | BrC1=CC=C(S1)C=CC(=O)O | C7H5BrO2S
reactant | 4-chlorophenylboronic acid | 1.6 mmol, 0.251 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 5 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 61.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 5 ml | COCCOC | C4H10O2
product | 3-[5-(4-Chloro-phenyl)-thiophen-2-yl]-acrylic Acid | ClC1=CC=C(C=C1)C1=CC=C(S1)C=CC(=O)O | C13H9ClO2S
